US04298529
7-(2-Methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid (syn isomer, 10 g.) was added to dry tetrahydrofuran (100 ml.) at 30° C. To the solution was added acetic anhydride (10 ml.) and stirred at the same temperature for 30 minutes. Sodium acetate (3 g.) was added to the solution and stirred at 30° C. for 4 hours. 6 N Hydrochloric acid (10 ml) was dropwise added to the reaction mixture under ice-cooling and the solvent was evaporated in vacuo below 30° C. After adding water into the residue, the mixture was stirred at 20° to 25° C. for 30 minutes. The precipitates were collected by filtration, washed with water and dried to give 7-(2-methoxyimino-3-oxo-bromobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 7 g.).

reactant | 7-(2-Methoxyimino-3-oxo-4-bromobutyramido)-3-hydroxycepham-4-carboxylic acid | 10 g | CON=C(C(=O)NC1[C@@H]2N(C(C(CS2)O)C(=O)O)C1=O)C(CBr)=O | C12H14BrN3O7S
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sodium acetate | 3 g | C(C)(=O)[O-].[Na+]
reactant | Hydrochloric acid | 6 N, 10 ml | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 7-(2-methoxyimino-3-oxo-bromobutyramido)-3-cephem-4-carboxylic acid | 7 g | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CBr)=O | C12H12BrN3O6S
